US08530648B2
b) (2-methyl-5-(2H-1,2,3-triazol-2-yl)phenyl)methanol
To a stirred solution of 2-methyl-5-(2H-1,2,3-triazol-2-yl)benzaldehyde (140 mg, 0.75 mmol) in methanol (10 mL), NaBH4 (42 mg, 1.1 mmol) was added at 10° C. and stirred for 10 min. Then the mixture was allowed to warm to rt and stirred for 1 h. The mixture was quenched with saturated aqueous NH4Cl solution (0.3 mL) and filtered over hyflow. The filtrate was dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure. The crude product was purified flash column chromatography (eluent: 30% ethyl acetate in hexane) to yield the title compound (100 mg, 71%). [TLC Rf=0.18 (ethyl acetate/hexane 30:70)].

reactant | 2-methyl-5-(2H-1,2,3-triazol-2-yl)benzaldehyde | 0.75 mmol, 140 mg | CC1=C(C=O)C=C(C=C1)N1N=CC=N1 | C10H9N3O
reactant | NaBH4 | 1.1 mmol, 42 mg | [BH4-].[Na+]
solvent | methanol | 10 mL | CO | CH4O
product | (2-methyl-5-(2H-1,2,3-triazol-2-yl)phenyl)methanol | 100 mg, 71% | CC1=C(C=C(C=C1)N1N=CC=N1)CO | C10H11N3O
